US06906060B2
(4-Fluorophenyl)-[4-((R)-octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]methanone
340 mg of the title compound were prepared as described for [3,5-difluoro-4-((R)-octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]-[phenyl]methanone, using 4,4′-difluorobenzophenone instead of 3,4,5-trifluorobenzophenone.

reactant | [3,5-difluoro-4-((R)-octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]-[phenyl]methanone | FC=1C=C(C=C(C1N1C[C@@H]2N(CC1)CCCC2)F)C(=O)C2=CC=CC=C2 | C21H22F2N2O
reactant | 4,4′-difluorobenzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
product | (4-Fluorophenyl)-[4-((R)-octahydropyrido[1,2-a]pyrazin-2-yl)phenyl]methanone | 340 mg | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)N1C[C@@H]2N(CC1)CCCC2 | C21H23FN2O
